US06906072B1
Example 72 1-[(4-Cyano-5-methyl-4-(3-cyano-2-thienyl)hexyl]-4-[2-(3-cyanophenoxy)ethyl]piperazine
In 1.5 ml of acetonitrile was dissolved 111 mg (0.31 mmol) of 4-cyano-5-methyl-4-(3-cyano-2-thienyl)hexyl iodide. To the mixture were added 56.2 μl (0.40 mmol) of triethylamine and 109 mg (0.47 mmol) of 1-(3-cyanophenoxyethyl)piperazine, followed by stirring for 3 days. The organic layer separated by adding ethyl acetate and brine to the reaction solution was dried over magnesium sulfate, and then evaporated, to give a crude product. The crude product was subjected to 12.5 g of Cromatorex NH silica gel (ethyl acetate/hexane-1/2), to give 144 mg (quantitative) of the title compound as a yellow syrup.

reactant | 4-cyano-5-methyl-4-(3-cyano-2-thienyl)hexyl iodide | 0.31 mmol, 111 mg | C(#N)C(CCCI)(C(C)C)C=1SC=CC1C#N | C13H15IN2S
reactant | triethylamine | 0.40 mmol, 56.2 μl | C(C)N(CC)CC | C6H15N
reactant | 1-(3-cyanophenoxyethyl)piperazine | 0.47 mmol, 109 mg | C(#N)C=1C=C(OCCN2CCNCC2)C=CC1 | C13H17N3O
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
product | (4-Cyano-5-methyl-4-(3-cyano-2-thienyl)hexyl]-4-[2-(3-cyanophenoxy)ethyl]piperazine | C(#N)C(CCCN1CCN(CC1)CCOC1=CC(=CC=C1)C#N)(C(C)C)C=1SC=CC1C#N | C26H31N5OS
